US08604055B2
Step (i): Synthesis of cyclobutylmethyl-{1,3-dimethyl-5-[(5-methyl-isoxazol-3-ylamino)-methyl]-1H-pyrazolo[3,4-b]pyridin-6-yl}-ethyl-amine
5-Methyl-isoxazol-3-ylamine (0.37 g, 3.8 mmol) was added to a solution of 6-(cyclobutylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde (0.54 g, 1.9 mmol) in anhydrous chloroform (20 mL) and acetic acid (0.2 mL) under nitrogen. After stirring for 15 min at RT, sodium triacetoxyborohydride (1.20 g, 5.7 mmol) was added slowly and this mixture was stirred at RT overnight. After evaporation of chloroform in vacuo, water (30 mL) and ethyl acetate (30 mL) were added to the residue. The organic layer was separated, washed with brine, dried over sodium sulfate, and concentrated to give title compound, which was taken on without further purification.

reactant | 5-Methyl-isoxazol-3-ylamine | 3.8 mmol, 0.37 g | CC1=CC(=NO1)N | C4H6N2O
reactant | 6-(cyclobutylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 1.9 mmol, 0.54 g | C1(CCC1)CN(C1=C(C=C2C(=N1)N(N=C2C)C)C=O)CC | C16H22N4O
reactant | sodium triacetoxyborohydride | 5.7 mmol, 1.20 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | cyclobutylmethyl-{1,3-dimethyl-5-[(5-methyl-isoxazol-3-ylamino)-methyl]-1H-pyrazolo[3,4-b]pyridin-6-yl}-ethyl-amine | C1(CCC1)CN(CC)C1=C(C=C2C(=N1)N(N=C2C)C)CNC2=NOC(=C2)C | C20H28N6O
